US05453424
(15) 2-Pivaloyl-3-furoyl azide
2-Pivaloyl-3-furoic acid (1.96 g, 0.01 mol) was dissolved in acetone (40 ml) and the solution was stirred at 0° C. under nitrogen. Triethylamine (1.7 ml, 0.012 mol) was added, followed by ethyl chloroformate (1.24 ml, 0.013 mol) and the mixture was stirred for 11/2 hours. A solution of sodium azide (1.11 g, 0.017 mol) in water (4 ml) was added and the suspension was stirred for another 2 hours at 0° C. The solid was removed by filtration and the filtrate was diluted with water (25 ml). It was concentrated in vacuo to remove the acetone. The oil-water residue was extracted with ethyl acetate. The ethyl acetate extract was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated to an amber oil (2.06 g) of 87% purity by HPLC.

reactant | 2-Pivaloyl-3-furoic acid | 0.01 mol, 1.96 g | C(C(C)(C)C)(=O)C=1OC=CC1C(=O)O | C10H12O4
reactant | Triethylamine | 0.012 mol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.013 mol, 1.24 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 0.017 mol, 1.11 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | 2-Pivaloyl-3-furoyl azide | C(C(C)(C)C)(=O)C=1OC=CC1C(=O)N=[N+]=[N-] | C10H11N3O3
